US06600038B1
2, Phosphorus oxychoride in an amount of 1.3 ml was added to 0.67 g of 2,5,6-trimethyl-7-(2,6-dibromo-4-trifluoromethylphenyl)-3,7-dihydropyrrolo[2,3-d]pyrimidin-4-one, and the reaction mixture was heated for 0.5 hours at 100° C. and was then cooled. The reaction mixture was poured into water with ice and was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure and was allowed to stand for crystallization to yield 0.66 g of 4-chloro-2,5,6-trimethyl-7-(2,6-dibromo-4-trifluoromethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine.

reactant | Phosphorus oxychoride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,5,6-trimethyl-7-(2,6-dibromo-4-trifluoromethylphenyl)-3,7-dihydropyrrolo[2,3-d]pyrimidin-4-one | 0.67 g | CC=1NC(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2Br)C(F)(F)F)Br)=O | C16H12Br2F3N3O
solvent | water | O | H2O
product | 4-chloro-2,5,6-trimethyl-7-(2,6-dibromo-4-trifluoromethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.66 g | ClC=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2Br)C(F)(F)F)Br | C16H11Br2ClF3N3
